US06313312B1
3-Hexyl-6-isopropyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexane
To a stirred solution of 3-hexyl-6-isopropyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione (Preparation 59, 0.57 g, 1.6 mmol) in tetrahydrofuran (6 ml), under nitrogen, was added borane tetrahydrofuran complex (1M in tetrahydrofuran, 3.0 ml, 3.0 mmol) and the reaction mixture was heated under reflux for 2 h. The reaction mixture was cooled to room temperature before the addition of further borane tetrahydrofuran complex (1M in tetrahydrofuiran, 3.0 ml, 3.0 mmol). After 20 min, the reaction mixture was cooled to room temperature and methanol (8 ml) was added and then the reaction mixture was once more heated under reflux for 6 h. The reaction mixture was concentrated in vacuo and the residue was dried under vacuum at room temperature. The residue was treated with dichloromethane (4 ml), filtered and purified by chromatography on a Biotage Flash40S™ cartridge packed with silica gel (40 g) eluting with hexane:ethyl acetate (6:1). The title compound was obtained initially as a yellow oil which crystallised upon standing (0.2 g, 40%).

reactant | 3-hexyl-6-isopropyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 1.6 mmol, 0.57 g | C(CCCCC)N1C(C2C(C2C1=O)(C1=CC(=CC=C1)[N+](=O)[O-])C(C)C)=O | C20H26N2O4
reactant | borane tetrahydrofuran | 3.0 mmol, 1M, 3.0 ml | O1CCCC1.B
reactant | methanol | 8 ml | CO | CH4O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 3-Hexyl-6-isopropyl-6-(3-nitrophenyl)-3-azabicyclo[3.1.0]hexane | C(CCCCC)N1CC2C(C2C1)(C1=CC(=CC=C1)[N+](=O)[O-])C(C)C | C20H30N2O2
